US06548511B1
Sodium hydride (60% in oil, 0.45 g, 11.4 mmol) was added to DMF (5 ml) solution of 2,4-bis(trifluoromethyl)aniline (2.00 g, 8.73 mmol), followed by stirring for 30 minutes. Then, 3-ethyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone (2.08 g, 8 .73 mmol) was added, followed by stirring at 60° C. for 2 hours. After completion of the reaction, 1 N hydrochloric acid (30 ml) and ethyl acetate (20 ml) were added to the reaction solution to separate the organic layer, and the resulting aqueous layer was extracted with ethyl acetate (50 ml). The organic layers were combined, washed with water (30 ml×2) and saturated brine (70 ml) and then dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. By purifying the thus obtained crude product by a silica gel column chromatography (hexane:ethyl acetate=9:1˜7:3), white solid of 2-{2,4-bis(trifluoromethyl)phenyl}amino-3-ethyl-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 33] was obtained.

reactant | Sodium hydride | 11.4 mmol, 0.45 g | [H-].[Na+]
reactant | 2,4-bis(trifluoromethyl)aniline | 8.73 mmol, 2.00 g | FC(C1=C(N)C=CC(=C1)C(F)(F)F)(F)F | C8H5F6N
reactant | 3-ethyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone | .73 mmol, 2.08 g | C(C)N1C(=NC(=CC1=O)C(F)(F)F)SC | C8H9F3N2OS
reactant | hydrochloric acid | 1 N, 30 ml | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-{2,4-bis(trifluoromethyl)phenyl}amino-3-ethyl-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 35% | FC(C1=C(C=CC(=C1)C(F)(F)F)NC1=NC(=CC(N1CC)=O)C(F)(F)F)(F)F | C15H10F9N3O
